US08648096B2
To a suspension of 2-(2,6-dioxo-piperidin-3-yl)-4-methylaminomethyl-isoindole-1,3-dione hydrochloride (0.65 g, 1.93 mmol) and t-butyl-isocyanate (0.26 mL, 2.31 mmol) in dry CH2Cl2 (80 ml), was added diisopropylethylamine (0.47 mL g, 2.60 mmol). The mixture was stirred at room temperature overnight. The reaction mixture was added water (40 mL) and 1N HCl (40 mL). The mixture was quenched with MeOH and extracted with H2O (40 mL), then with 1N HCl (40 mL). The organic layer was washed with brine (40 mL) and concentrated on rota-vap. The resulting oil was purified on silica gel column to give 3-tert-butyl-1-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-1-methyl-urea (0.59 g, 76%): mp 188-190° C.; HPLC: Waters Symmetry C-18, 3.9×150 mm, 5 micro, 1 mL/min, 240 nm, 40/60 (CH3CN/H2O): tR=3.14 (96%); 1H NMR (DMSO-d6): δ 1.28 (s, 9H), 2.08 (m, 1H), 2.64-2.50 (m, 2H), 2.85 (s, 3H), 2.87-2.95 (m, 1H), 4.87 (s, 2H), 5.14-5.18 (dd, J=5.3, 12.6 Hz, 1H), 5.71 (s, 1H), 7.50-7.52 (m, 1H), 7.79-7.88 (m, 2H), 11.13 (s, 1H). 13C NMR (DMSO-d6) δ: 21.95, 29.13, 30.90, 34.81, 47.02, 48.82, 50.07, 121.70, 127.45, 131.73, 132.49, 134.78, 139.63, 157.40, 166.95, 167.61, 169.80, 172.73. Anal Calcd for C20H24N4O5: C, 59.99; H, 6.04; N, 13.99. Found: C, 59.87; H, 6.01; N, 13.83.

reactant | 2-(2,6-dioxo-piperidin-3-yl)-4-methylaminomethyl-isoindole-1,3-dione hydrochloride | 1.93 mmol, 0.65 g | Cl.O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC)=O)=O
reactant | t-butyl-isocyanate | 2.31 mmol, 0.26 mL | C(C)(C)(C)N=C=O | C5H9NO
reactant | diisopropylethylamine | 2.60 mmol, 0.47 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HCl | 1N, 40 mL | Cl | ClH
solvent | CH2Cl2 | 80 ml | C(Cl)Cl | CH2Cl2
solvent | water | 40 mL | O | H2O
product | 3-tert-butyl-1-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-ylmethyl]-1-methyl-urea | 0.59 g, 76% | C(C)(C)(C)NC(N(C)CC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O)=O | C20H24N4O5
